US06380387B1
To a suspension of 4-(1,3-dimethyl-2,4-dioxo-5-pyrimidinyl)-3-methyl-L-phenylalanine methyl ester (0.128 mmol, 47 mg) and 2,6-dichlorobenzoyl chloride (0.153 mmol, 32 mg) in dichloromethane (1 mL) was added diisopropylethylamine (0.45 mmol, 77 uL) at room temperature. After 5 min, everything went into solution and the clear yellow solution was stirred for 15 h at room temperature. The resulting brown solution was diluted with dichloromethane (25 mL). The dichloromethane layer was washed successively with 1N hydrochloric acid (2×25 mL), saturated sodium bicarbonate solution (25 mL), and brine solution (25 mL) and was dried over anhydrous magnesium sulfate. Filtration of the drying agent and concentration gave the crude product which was purified by silica gel chromatography using a Biotage (40m) column to afford 52 mg (81% yield) of N-[(2,6-dichlorophenyl)carbonyl]-4-(1,3-dimethyl-2,4-dioxo-5-pyrimidinyl)-3-methyl-L-phenylalanine methyl ester as an amorphous white solid. ES-HRMS m/e calcd for C24H23Cl2N3O5 (M+Na) 526.0907, found 526.0912.

reactant | 4-(1,3-dimethyl-2,4-dioxo-5-pyrimidinyl)-3-methyl-L-phenylalanine methyl ester | 0.128 mmol, 47 mg | COC([C@@H](N)CC1=CC(=C(C=C1)C=1C(N(C(N(C1)C)=O)C)=O)C)=O | C17H21N3O4
reactant | 2,6-dichlorobenzoyl chloride | 0.153 mmol, 32 mg | ClC1=C(C(=O)Cl)C(=CC=C1)Cl | C7H3Cl3O
reactant | diisopropylethylamine | 0.45 mmol, 77 uL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | N-[(2,6-dichlorophenyl)carbonyl]-4-(1,3-dimethyl-2,4-dioxo-5-pyrimidinyl)-3-methyl-L-phenylalanine methyl ester | 52 mg, 81% yield | COC([C@@H](NC(=O)C1=C(C=CC=C1Cl)Cl)CC1=CC(=C(C=C1)C=1C(N(C(N(C1)C)=O)C)=O)C)=O | C24H23Cl2N3O5
